US07910613B2
85: N-[5-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-acetamide
Prepared from 5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine and acetyl chloride.

reactant | 5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine | C(C)C1=NOC(=N1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C13H12N4OS
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[5-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-acetamide | C(C)C1=NOC(=N1)C1=C(N=C(S1)NC(C)=O)C1=CC=CC=C1 | C15H14N4O2S
